US05486525
To a solution of N-bromosuccinimide (5.94 g, 33 mmol) in hexanes (16 mL) was added 5-methyl-2-carboxymethylthiophene (5.0 g, 32 mmol), prepared as in step 1, followed by 1 drop of perchloric acid. The reaction mixture was stirred for 22 hours at ambinet temperature and then partitioned between ethyl acetate and saturated aqueous HaHSO3 solution. The organic phase was dried over Na2SO4, filtered, and concentrated in vacuo to give 6.17 g of 5-bromomethyl-2-carboxymethylthiophene as a yellow oil.

reactant | N-bromosuccinimide | 33 mmol, 5.94 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 5-methyl-2-carboxymethylthiophene | 32 mmol, 5.0 g | CC1=CC=C(S1)CC(=O)O | C7H8O2S
catalyst | perchloric acid | 1 drop | Cl(=O)(=O)(=O)O | ClHO4
product | 5-bromomethyl-2-carboxymethylthiophene | 6.17 g | BrCC1=CC=C(S1)CC(=O)O | C7H7BrO2S
